US05064833
8-(Hydroxyethoxy)-4-(N-methylphenylamino)-2-[(2-methylphenyl)amino]quinazoline
Lithium aluminium hydride (0.27 g, 7.1 mmol) was added to dry distilled THF (50 ml) and the mixture stirred in an ice-bath under dry nitrogen. A solution of 8-(ethoxycarbonylmethoxy)-4-(N-methylphenylamino)-2-[(2-methylphenyl)amino]quinazoline (2.4 g, 5.43 mmol) in dry THF (30 ml) was added dropwise at such a rate as to keep the reaction temperature below 5°. The mixture was then allowed to freely reach room temperature and stirred for three hours. Water was carefully added followed by a little 40% NaOH. Two layers were produced and this mixture was extracted (×2) with ethyl acetate. The combined organic extracts were worked with water (×3) and brine, dried (Na2SO4) and evaporated to give an oil which crystallised on scratching to a yellow solid (1.9 g).

reactant | Lithium aluminium hydride | 7.1 mmol, 0.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-(ethoxycarbonylmethoxy)-4-(N-methylphenylamino)-2-[(2-methylphenyl)amino]quinazoline | 5.43 mmol, 2.4 g | C(C)OC(=O)COC=1C=CC=C2C(=NC(=NC12)NC1=C(C=CC=C1)C)N(C)C1=CC=CC=C1 | C26H26N4O3
reactant | Water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 8-(Hydroxyethoxy)-4-(N-methylphenylamino)-2-[(2-methylphenyl)amino]quinazoline | OCCOC=1C=CC=C2C(=NC(=NC12)NC1=C(C=CC=C1)C)N(C)C1=CC=CC=C1 | C24H24N4O2
